US08110585B2
trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}benzamide
To a solution of trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine (50.0 mg, 0.248 mmol) and triethylamine (41.6 μL, 0.298 mmol) in tetrahydrofuran (2.5 mL) was added benzoyl chloride (31.7 μL, 0.273 mmol) under ice-cooling, and the mixture was stirred under ice-cooling for 5 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=0/100→5/95) 15 and silica gel column chromatography (NH, methanol/ethyl acetate=0/100→5/95) to give the title compound (51.0 mg, yield 67%).

reactant | trans-1-[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methanamine | 0.248 mmol, 50.0 mg | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CN)=C1 | C12H15N3
reactant | triethylamine | 0.298 mmol, 41.6 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.273 mmol, 31.7 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | trans-N-{[2-(2-methylpyrazolo[1,5-a]pyridin-4-yl)cyclopropyl]methyl}benzamide | 51.0 mg, yield 67% | CC1=NN2C(C(=CC=C2)[C@H]2[C@@H](C2)CNC(C2=CC=CC=C2)=O)=C1 | C19H19N3O
